US04401832
α-[(1-Methylethylamino)methyl]-β-(2-Methylphenoxy)Benzeneethanol, Hydrochloride
This compound was prepared by reduction of α-hydroxy-N-(1-methylethyl)-β-(2-methylphenoxy)benzenepropanamide (1.8 g.) with borane-tetrahydrofuran complex (1 M solution in tetrahydrofuran, 13 ml.) and subsequent treatment with hydrochloric acid as described in Example 24. The crude product was purified by recrystallization from tetrahydrofuran. The product melted at 193°-195°, and weighed 0.75 g.

reactant | α-hydroxy-N-(1-methylethyl)-β-(2-methylphenoxy)benzenepropanamide | 1.8 g | OC(C(=O)NC(C)C)C(C1=CC=CC=C1)OC1=C(C=CC=C1)C | C19H23NO3
reactant | borane tetrahydrofuran | 1 M, 13 ml | B.O1CCCC1
reactant | hydrochloric acid | Cl | ClH
product | α-[(1-Methylethylamino)methyl]-β-(2-Methylphenoxy)Benzeneethanol, Hydrochloride | Cl.CC(C)NCC(C(C1=CC=CC=C1)OC1=C(C=CC=C1)C)O | InChI=1S/C19H25NO2.ClH/c1-14(2)20-13-17(21)19(16-10-5-4-6-11-16)22-18-12-8-7-9-15(18)3;/h4-12,14,17,19-21H,13H2,1-3H3;1H
